US07253286B2
4-[(7-Oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-4-yl)oxy]aniline
Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate (330 mg), palladium-carbon (10%, aqueous, 100 mg), methanol (5 ml) and tetrahydrofuran (5 ml) were stirred overnight at under a hydrogen atomsphere at 1 atmosphere. The palladium-carbon was filtered off, the filtrate was distilled off under reduced pressure, and then the residue was purified by silica gel column chromatography (ethyl acetate, followed by ethyl acetate:methanol=5:1) to obtain 43 mg of a white solid.

reactant | Ethyl(E)-3-[2-amino-4-(4-nitrophenoxy)-3-pyridyl]-2-propenoate | 330 mg | NC1=NC=CC(=C1/C=C/C(=O)OCC)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H15N3O5
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | palladium-carbon | 100 mg | [C].[Pd]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-[(7-Oxo-5,6,7,8-tetrahydro[1,8]naphthyridin-4-yl)oxy]aniline | 43 mg | O=C1CCC=2C(=CC=NC2N1)OC1=CC=C(N)C=C1 | C14H13N3O2
